US06989392B2
To a 100 mL round bottom flask equipped with a stirring bar, under N2, was added 6.25 g (Aldrich Chemical Co., Inc, 2 equiv) of PS-PPh3 resin followed by 35 mL of anhydr. THF. After stirring for 30 min, 1.5 g (9.38 mmol) of 2-amino-8-hydroxyquinoline was added, followed by 1.16 mL (1.7 equiv) of 4-penten-2-ol. The reaction mixture was then cooled to 0° C. and 2.70 g (1.25 equiv) of DBAD was added in two portions. The reaction was allowed to slowly warm to room temperature and stirring was maintained for 12 h. Then, 0.40 mL (0.5 equiv) of 4-penten-2-ol, 1.26 g (4.81 mmol) of PPh3, and 1.5 g (0.7 equiv) of DBAD were added and stirring was maintained for an additional 12 h. The supernatant was then decanted and the resin was washed several times with CHCl3 and MeOH. The supernatant and the washes were combined, filtered through a layer of Celite®, and evaporated in vacuo. The residue was dissolved in a 50% tfa/CH2Cl2 (10 mL) and left overnight at room temperature. The resulting solution was then diluted with CH2Cl2 (30 mL) and slowly quenched with saturated aqueous NaHCO3. The organic layer was separated and evaporated in vacuo. The resulting residue was dissolved in a 3:1 mixture of MeOH/DMSO and purified by preparative HPLC. The homogeneous fractions were combined, evaporated in vacuo, re-dissolved in EtOAc and free-based with saturated aqueous NaHCO3. The organic layer was separated, dried over anhydr. Na2SO4, and evaporated in vacuo to afford 8-(1-methyl-but-3-enyloxy)-quinolin-2-ylamine. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.83 (d, 1H), 7.22 (m, 2H), 7.03 (m, 1H), 6.74 (d, 1H), 6.37 (s, 2H), 5.79–6.02 (m, 1H), 5.00–5.21 (m, 2H), 4.68 (m, 1H), 2.35 (m, 2H), 1.28 (d, 3H), MS (DCI/NH3) m/z 229 [M+H]+.

reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-amino-8-hydroxyquinoline | 9.38 mmol, 1.5 g | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | 4-penten-2-ol | 1.16 mL, 1.7 equiv | CC(CC=C)O | C5H10O
reactant | DBAD | 2.70 g, 1.25 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | 4-penten-2-ol | 0.40 mL, 0.5 equiv | CC(CC=C)O | C5H10O
reactant | PPh3 | 4.81 mmol, 1.26 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DBAD | 1.5 g, 0.7 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 8-(1-methyl-but-3-enyloxy)-quinolin-2-ylamine | CC(CC=C)OC=1C=CC=C2C=CC(=NC12)N | C14H16N2O
